US07772271B2
6-Bromo-2-(4-ethoxyphenyl)-1-ethyl-indole-3-carbonitrile (0.37 g, 1.0 mmol), prepared from 6-bromoindole using the procedure described in example 1Gb, is mixed with NaO t-Bu (0.13 g, 1.4 mmol), Pd2(dba)3 (0.009 g, 0.01 mmol), BINAP (0.019 g, 0.03 mmol), 1-Boc-piperazine (0.22 g, 1.2 mmol) and dry toluene (3.0 mL). The mixture is stirred at 80° C. for 6 h. After cooling, the solvent is replaced with dichloromethane and chromatographed (silica gel, DCM/EtOAc, 9.5/0.5) to provide 4-[3-cyano-2-(4-ethoxyphenyl)-1-ethylindol-6-yl]piperazine-1-carboxylic acid tert-butyl ester (0.41 g, 86%).

reactant | 6-Bromo-2-(4-ethoxyphenyl)-1-ethyl-indole-3-carbonitrile | 1.0 mmol, 0.37 g | BrC1=CC=C2C(=C(N(C2=C1)CC)C1=CC=C(C=C1)OCC)C#N | C19H17BrN2O
reactant | 6-bromoindole | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | 1-Boc-piperazine | 1.2 mmol, 0.22 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.01 mmol, 0.009 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.03 mmol, 0.019 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[3-cyano-2-(4-ethoxyphenyl)-1-ethylindol-6-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.41 g, 86% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C2C(=C(N(C2=C1)CC)C1=CC=C(C=C1)OCC)C#N | C28H34N4O3
